US08420816B2
STEP A: (R)-2-((1-(tert-butoxycarbonyl)-3-(methoxycarbonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl)methylamino)-2-cyclopentylacetic acid
To a 10 mL round bottom flask was added sodium triacetoxyborohydride (104 mg, 0.493 mmol), (R)-2-amino-2-cyclopentylacetic acid (47.1 mg, 0.329 mmol) and DCM (2 mL). The reaction mixture was stirred at room temperature for 30 min after which was added 1-tert-butyl 3-methyl 4-formyl-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate (50 mg, 0.164 mmol) in DCM (2 mL). The reaction was stirred at room temperature for 2 h and then quenched with MeOH (3 drops). The mixture was concentrated to afford the title compound, which was used in the next step without further purification. [M+H] calc'd for C22H29N3O6, 432; found, 432.4.

reactant | sodium triacetoxyborohydride | 0.493 mmol, 104 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (R)-2-amino-2-cyclopentylacetic acid | 0.329 mmol, 47.1 mg | N[C@@H](C(=O)O)C1CCCC1 | C7H13NO2
reactant | 1-tert-butyl 3-methyl 4-formyl-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate | 0.164 mmol, 50 mg | C(=O)C1=C2C(=NC=C1)N(C=C2C(=O)OC)C(=O)OC(C)(C)C | C15H16N2O5
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-((1-(tert-butoxycarbonyl)-3-(methoxycarbonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl)methylamino)-2-cyclopentylacetic acid | C(C)(C)(C)OC(=O)N1C=C(C=2C1=NC=CC2CN[C@@H](C(=O)O)C2CCCC2)C(=O)OC | C22H29N3O6
